US04255429
The starting material is prepared as follows: The mixture of 19 g of 3-phenylglutaric anhydride, 10.3 g of 4-aminopyridine, 350 ml of xylene and 2.5 g of methane sulfonic acid is refluxed on a water separator while stirring for 2 days. The hot solution is decanted from some insolubles, cooled, filtered an the residue triturated with hot isopropanol, to yield the 4-phenyl-1-(4-pyridyl)-piperidin-2,6-dione meling at 229°-230°; the analogously prepared 4-(p-methoxyphenyl)-1-(4-pyridyl)-piperidine-2,6-dione melts at 168°-169°.

reactant | 3-phenylglutaric anhydride | 19 g | C1(=CC=CC=C1)C1CC(=O)OC(C1)=O | C11H10O3
reactant | 4-aminopyridine | 10.3 g | NC1=CC=NC=C1 | C5H6N2
reactant | xylene | 350 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | methane sulfonic acid | 2.5 g | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
product | 4-phenyl-1-(4-pyridyl)-piperidin-2,6-dione | C1(=CC=CC=C1)C1CC(N(C(C1)=O)C1=CC=NC=C1)=O | C16H14N2O2
